Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Outside hospital transfer for lip and tongue swelling. 
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ woman w/PMHx HTN, ESRD on HD (T/TH), hx of lung, cervical 
CA, DVD GERD admitted to referring hospital on ___ with 
angioedema thought ___ lisinopril transferred by patient request 
for continuity of care.  

Per report, patient has been on lisinopril for a long time. On 
___ developed lip and tongue swelling and was admitted to 
referring hospital on ___. Never needed the ICU, was only on 
the ward. Got IV famotidine, Benadryl, solumedrol initially at 
OSH. Angioedema very slow to improve at OSH but stable. Started 
NPO at OSH and diet slowly advanced to thick nectars, under 
advisement of S+S at OSH. Got dialysis on ___. Since stopping 
lisinopril SBPs 180s, so started amlodipine, SBP went to 170s.

 In the OSH, initial vitals were:  
 - OSH Exam notable for: 98.4 67 180/54 20 90%RA  
 - OSH Labs notable for:  
 WBC 7.0 H+H 9.4/31.5 Plt 161  
 Chem 137/4.___/4.5 Glu 118  
 Cal 9.2  
 TBili 0.3 AST/ALT ___  
 Alk phos 82  
 Alb 3.9  
 TSH 1.27  
 - Imaging at OSH:  
 CXR on admission: no acute cardiopulmonary process  

Decision was made to transfer for further work-up / treatment of 
angioedema.

On the floor, patient reports continued but improved tongue 
swelling. Has definite difficulty articulating but answers Y/N 
questions well. Denies current pain / difficulty breathing. 
Denies N/V/F/C.  

 
Past Medical History:
IDDM2 (dx ___ yrs ago), multiple admissions for uncontrolled DM  

 ESRD on hemodialysis (___, F)  
 HTN  
 Hypercholestolemia  
 PSH:  
 Jump graft revision with thrombectomy of right  
 upper extremity AV graft ___  
 ___ RUE AVG revision  
 PREADMISSION MEDICATIONS:  
 
Social History:
___
Family History:
father died of etoh-induced cirrhosis ___ y/o  
mother died of pna at ___ y/o  
grandmother had DM  
5 siblings w/o DM  

 
Physical Exam:
ADMISSION EXAM:
==============
Vital Signs: 98.5 PO 183 / 61 60 14 96 RA  
 General: Alert, oriented, no acute distress and happy. 
Difficulty articulating words.  
 HEENT: Grossly enlarged tongue, but no e/o lip/facial swelling. 
No e/o stridor. Sclera anicteric, MMM, EOMI, PERRL, neck supple, 
JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

DISCHARGE EXAM:
===============
VS - 98.0-97.9 | 142/61-170/50 | 65-54 | ___ | 97-96% RA
 General: Alert, oriented, no acute distress. Difficulty 
articulating words.  
 HEENT: Grossly enlarged tongue with white plaque, but no e/o 
lip/facial swelling. Sclera anicteric, MMM, EOMI, PERRL, neck 
supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2  
 Lungs: Clear to auscultation
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. AV fistula of R arm, pulsatile.   
 Neuro: Pt is oriented x3. Speech is improved from previously; 
patient more intelligible although remains dysarthric.
 
Pertinent Results:
ADMISSION LABS:
==============
___ 08:50AM BLOOD WBC-6.2 RBC-4.80 Hgb-10.9* Hct-34.8 
MCV-73* MCH-22.7* MCHC-31.3* RDW-21.5* RDWSD-52.8* Plt ___
___ 08:50AM BLOOD ___ PTT-27.9 ___
___ 08:50AM BLOOD Glucose-307* UreaN-50* Creat-5.7*# 
Na-131* K-4.6 Cl-90* HCO3-24 AnGap-22*
___ 08:50AM BLOOD Calcium-8.6 Phos-3.3 Mg-2.4
___ 08:50AM BLOOD C4-25
___ 08:50AM BLOOD CRP-2.8
___ 04:56AM BLOOD %HbA1c-5.6 eAG-114
___ 08:50AM BLOOD SED RATE-Test  

DISCHARGE LABS:
===============    
___ 07:02AM BLOOD WBC-7.8 RBC-4.27 Hgb-9.8* Hct-32.4* 
MCV-76* MCH-23.0* MCHC-30.2* RDW-22.8* RDWSD-59.0* Plt ___
___ 01:10PM BLOOD ___ PTT-46.6* ___
___ 07:02AM BLOOD Glucose-100 UreaN-28* Creat-5.4*# Na-140 
K-4.4 Cl-98 HCO3-28 AnGap-18
___ 07:02AM BLOOD Calcium-8.6 Phos-2.9 Mg-2.3

IMAGING:
========
___ Imaging CHEST (PORTABLE AP) 
IMPRESSION:  
In comparison with the study of ___, patient has taken a 
better inspiration.  Again there is enlargement of the cardiac 
silhouette with some elevation in pulmonary venous pressure.  No 
evidence of acute focal pneumonia. Vascular stenting is seen in 
the right upper zone. 

___ Imaging MRI & MRA BRAIN 
IMPRESSION:  
Severe acute subcortical infarct in the left centrum semiovale 
and possible late subacute infarct in the right centrum 
semiovale.  Several colonic infarcts are seen with T2 shine 
through in the centrum semiovale.  Extensive changes of small 
vessel disease and brain atrophy seen.  Chronic micro 
hemorrhages as before.  Normal MRA of the head. 

___ Imaging MRA NECK W/O CONTRAST 
IMPRESSION: 
1. Similar appearance of the bilateral vertebral and internal 
carotid 
arteries, compared to the prior exam from ___, however please 
note that this study is limited secondary to mild motion 
artifact. 
2. Attenuated appearance of the origins of the bilateral 
external carotid arteries appear similar to the prior exam and 
may be artifactual, however a focal stenosis cannot be excluded. 
 A CTA of the neck may be helpful for further evaluation. 

___
CONCLUSIONS: The left atrium is mildly dilated. No left atrial 
mass/thrombus seen (best excluded by transesophageal 
echocardiography). No atrial septal defect is seen by 2D or 
color Doppler. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%). The 
estimated cardiac index is normal (>=2.5L/min/m2). Tissue 
Doppler imaging suggests an increased left ventricular filling 
pressure (PCWP>18mmHg). There is no ventricular septal defect. 
Right ventricular chamber size and free wall motion are normal. 
The aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Trivial mitral regurgitation is seen. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion. 

IMPRESSION: Normal biventricular cavity sizes with preserved 
regional and global biventricular systolic function. No 
pathologic flow identified. Increased PCWP. (Left Ventricle - 
Ratio E/E': *22. No PFO or atrial thrombus found.)
 
Brief Hospital Course:
___ w/PMHx HTN, paroxysmal afib, ESRD on HD (T/TH), and stroke 
admitted to referring hospital on ___ with lip/tongue 
angioedema and found to have acute strokes during hospital 
work-up for persistent dysarthria, thought to be secondary to 
atrial fibrillation and patient was started on Warfarin.

#Angioedema
Swelling of lip and tongue evaluated by ___ allergy and 
determined to be most likely secondary to ACEi-associated 
angioedema (given lack of improvement with 
antihistamines/steroids, prolonged time course, and lack of 
urticarial/pruritis/bronchospasm). Lisinopril was discontinued 
and added to allergy list. Patient was initially treated with 
methylpred 80 mg IV q8, famotidine 20 mg IV, and fexofenadine. 
Patient's lip and tongue swelling improved. 

#Acute cardioembolic stroke 
Despite improvement of angioedema throughout hospital course, 
patient's dysarthria did not improve, prompting neurologic 
workup. MRI showed severe acute subcortical infarct in the left 
centrum semiovale and possible late subacute infarct in the 
right centrum semiovale. Strokes most likely cardioembolic in 
nature, given evidence of atrial fibrillation on EKG and 
telemetry. Per neurology recommendations, patient was started on 
anticoagulation. She was discharged on Warfarin 5mg with Aspirin 
325mg bridge that will need to be continued after patient 
therapeutic on warfarin for 48 hours (Aspirin can be 
discontinued if INR therapeutic on ___. 

#Atrial Fibrillation
Tele and EKG with evidence of intermittent atrial fibrillation, 
which was diagnosed in ___ following first stroke. Refused 
Patietn has been started on warfarin. Patient has appropriate 
rate and does not require pharmacologic rate control. Received 
TTE with bubble study; no evidence of PFO. 

#HTN  
Discontinued Lisinopril and added to allergy list. Patient 
started on Losartan and maintained on home Amlodipine 10mg and 
Hydralazine 50mg q8 hours for blood pressure control. Patient 
may require uptitration of hypertension regimen with Labetolol. 

#AV graft aneurysm/ESRD 
Patient has 5cm area in AV graft concerning for chronic 
psuedoaneurysm. Patient was evaluated by transplant surgery, who 
did not recommend any acute surgical intervention. Dialysis on 
___ schedule.

#Type II Diabetes Mellitus  
Patient has history of DM, but not taken any meds or insulin at 
home. A1c taken ___ is 5.61%. FBGs ranged in 300s on ___ and 
___, most likely in the setting of steroids. Her blood glucose 
has remained under 200 after steroids were stopped. Patient has 
not required insulin and was not discharged on medication for 
DM. 

#Microcytic anemia
Most likely secondary to kidney failure. Initiated 
erythropoietin with dialysis. ___ also have component of anemia 
of chronic disease, given elevated ferritin levels (although 
last measured in ___. 

#GERD  
Continue home Pantoprazole.
 

TRANSITIONAL ISSUES:
====================
- New allergy: LISINOPRIL (angioedema)
- Discharged on Warfarin 5mg with Aspirin 325mg bridge that will 
need to be continued after patient therapeutic on warfarin for 
48 hours (Aspirin 325 mg can be discontinued if INR therapeutic 
[goal INR ___ on ___.  
- Once INR therapeutic and full-strength ASA is stopped, please 
START Aspirin 81 mg daily.
- When patient discharged from rehab INR can be monitored by 
___ clinic. 
- Sevelamer was held. When PO intake improves, consider 
restarting.
- Statin changed to atorvastatin 80 mg daily.
- Monitor chronic pseudoaneurysm in AV graft
- Discharged on amlodipine 10 mg daily, losartan 100 mg daily, 
hydralazine 50mg q8 hours. Please monitor blood pressure and 
uptitrate as needed. Consider adding Labetolol if needed.
- Initiate speech therapy.
- Patient discharged on pureed, nectar prethickened liquid diet 
per speech and swallow recommendations. Recommend maintaining 
this diet until evaluated by speech and swallow. 
- Patient with transient elevations in blood glucose levels 
following steroids for angioedema, which has now resolved. HbA1c 
was 5.6% on ___, so patient was not discharged on any 
treatment for DM. Please monitor blood glucose. 

# CODE: FULL (presumed)
# CONTACT: ___ (HCP/daughter) ___, ___ 
(daughter) ___ , ___ (daughter) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. amLODIPine 10 mg PO DAILY 
3. HydrALAZINE 50 mg PO Q8H 
4. Multivitamins 1 TAB PO DAILY 
5. Pantoprazole 20 mg PO Q24H 
6. sevelamer HYDROCHLORIDE 800 mg oral DAILY 

 
Discharge Medications:
1.  Aspirin 325 mg PO DAILY 
Stop when INR has been therapeutic for 48 hours (therapeutic on 
___, then START ASA 81 mg daily.   
2.  Atorvastatin 80 mg PO QPM  
3.  Losartan Potassium 100 mg PO DAILY  
4.  Warfarin 5 mg PO DAILY16  
5.  amLODIPine 10 mg PO DAILY  
6.  HydrALAZINE 50 mg PO Q8H  
7.  Multivitamins 1 TAB PO DAILY  
8.  Pantoprazole 20 mg PO Q24H  
9. HELD- sevelamer HYDROCHLORIDE 800 mg oral DAILY  This 
medication was held. Do not restart sevelamer HYDROCHLORIDE 
until held sevelamer PO due to low PO. restart when phos and 
oral intake improves 

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
___ Diagnosis:
Primary diagnoses: 
Angiotensin converting enzyme-inhibitor induced angioedema
Acute cardioembolic stroke

Secondary diagnosis:
End stage renal disease, dialysis dependent
Paroxysmal atrial fibrillation

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized at ___ because you had swelling of your 
lips and tongue. We think that your tongue and lips swelled up 
because of an allergic reaction to the blood pressure medication 
that you were previously taking (lisinopril). While you were 
here, we stopped the offending blood pressure medication and put 
you on some medications to help with the swelling. Your swelling 
has resolved.

We also noticed that you had some difficulty speaking, even when 
your tongue swelling went down. We obtained an image of your 
brain called an MRI, which showed that you had new strokes. We 
think that you had additional strokes because of a heart 
condition that you have called atrial fibrillation which can 
lead to clots that can travel to the brain. 

We started you on a blood thinner called warfarin, which 
prevents clots from forming. When you go home, you will take 
warfarin, but you need to get frequent blood tests to make sure 
that the medication is at the right level in your body. 
Additionally, we discontinued the blood pressure medication 
(lisinopril) that caused your lip and tongue to swell. We 
started you on a new blood pressure medication (losartan) to 
replace the old blood pressure medication that we stopped.

Your appointments and medications are below.

It was a pleasure taking care of you!
Your ___ Care Team
 
Followup Instructions:
___